US05364876
Synthesis of 7-Carboxyisochroman (1 g)
A solution of 7-bromoisochroman (7 g; 32.86 mmol) in THF (100 ml) was cooled to -78° C. and treated with 40.6 ml of a 1.7M solution of tert-butyllithium in pentane (69 mmol; 2.1 eq). Powdered dry ice (excess) was added to the red anion solution within 45 seconds. The reaction mixture was stirred for 30 minutes at -78° C. and 1 hour at room temperature. The reaction was quenched with 60 ml of 1N HCl and extracted with 3×70 ml of ether. The ether layers were combined and washed with brine until the pH was neutral, dried with MgSO4, and concentrated in vacuo. The product was obtained as a white solid, mp 140°-142° C. (5.7 g; 82%). 1H NMR (CDCl3): δ2.95 (t, 2H); 4.03 (t, 2H); 4.83 (s, 2H); 7.24 (t, 1H); 7.89 (s, 1H); 7.92 (d, 1H). IR (KBr): 2954, 2561, 1684, 1427, 1293, 1108 cm-1.

reactant | 7-bromoisochroman | 32.86 mmol, 7 g | BrC1=CC=C2CCOCC2=C1 | C9H9BrO
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 69 mmol, 2.1 eq | CCCCC | C5H12
reactant | dry ice | C(=O)=O | CO2
reactant | KBr | [K+].[Br-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-Carboxyisochroman | C(=O)(O)C1=CC=C2CCOCC2=C1 | C10H10O3
